US04118587
A slurry of 3-(γ-oxo-δ-acetoxybutylamino)-4-phenoxy-5-sulfamylbenzoic acid (1.5 g) in ethanol (10 ml) was treated with sodium borohydride (0.5 g) and the mixture was heated on the steam bath with occasional swirling until a clear solution had formed. Water and aq. Na2CO3 were added and heating on the steam bath continued for about 10 min. The solution was cooled and carefully acidified with 3N aqueous HCl. Some methanol was added and the solution was concentrated to ca. 20 ml under reduced pressure. Partial neutralization with aq. Na2CO3 caused the product to separate as a gum, which soon solidified. The product was filtered, washed with water, and air-dried to give 1.1 g (80%) of 3-(γ, δ-dihydroxybutylamino)-4-phenoxy-5-sulfamylbenzoic acid as a colorless powder. A sample was recrystallized from methanol/water to give needles with mp 235°-238°; ir (Nujol) 3500, 3400, 2700 (broad) 1710, 1625, 1600, and 1525 cm-1 ; nmr (d6 -DMSO) 1.5 (m, broad, 2H) 3.0-3.5 (m, broad, 5H), 5.13 (s, broad, NH), 6.7-7.3 (m, C6H5), 7.17 (s, SO2NH2), 7.31 (d, J=2, CH), and 7.66 ppm, d, J=2, CH); mass spectrum m/e 378, 396 (M+).

reactant | 3-(γ-oxo-δ-acetoxybutylamino)-4-phenoxy-5-sulfamylbenzoic acid | 1.5 g | O=C(CCNC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O)COC(C)=O | C19H20N2O8S
reactant | sodium borohydride | 0.5 g | [BH4-].[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | Water | O | H2O
product | 3-(γ, δ-dihydroxybutylamino)-4-phenoxy-5-sulfamylbenzoic acid | 1.1 g, 80% | OC(CCNC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O)CO | C17H20N2O7S
